US08198279B2
1-(2-fluoro-5-(trifluoromethyl)phenyl)-3-(4-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)-2-(methylthio)phenyl)urea (AA-060)
Method F2 was used with 8-(4-amino-3-(methylthio)phenoxy)-2-methylpyrido[2,3-b]pyrazin-3(4H)-one and 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene, to afford the title compound was obtained as a white solid (5 mg, 12%).

reactant | 8-(4-amino-3-(methylthio)phenoxy)-2-methylpyrido[2,3-b]pyrazin-3(4H)-one | NC1=C(C=C(OC2=CC=NC=3NC(C(=NC32)C)=O)C=C1)SC | C15H14N4O2S
reactant | 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(2-fluoro-5-(trifluoromethyl)phenyl)-3-(4-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)-2-(methylthio)phenyl)urea | FC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC=2NC(C(=NC21)C)=O)SC | C23H17F4N5O3S
